US08138173B2
A mixture of (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid (1.50 g, 4.70 mmol), N-Boc piperazine (0.96 g, 5.17 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.35 g, 7.05 mmol), 1-hydroxybenzotriazole (0.95 g, 7.05 mmol) and 20 mL of DMF was stirred at ambient temperature overnight. The mixture was concentrated under reduced pressure. The residue was triturated with acetonitrile, isolated by filtration, and dried to afford 1.96 g of tert-butyl 4-[(4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetyl]piperazine-1-carboxylate as a pale yellow solid.

reactant | (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid | 4.70 mmol, 1.50 g | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)O)C2=CC=CC=C2 | C18H13N3O3
reactant | N-Boc piperazine | 5.17 mmol, 0.96 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 7.05 mmol, 1.35 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 7.05 mmol, 0.95 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetyl]piperazine-1-carboxylate | 1.96 g | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C27H29N5O4
